US04846875
In a Parr hydrogenation apparatus were placed 3.7 g (0.014 mole) of 1-(2-chloro-4-fluoro-5-nitrophenyl)ethyl nitrate, 0.35 g of platinum oxide catalyst, 35 ml of ethyl acetate, and 10 ml of acetic anhydride. The apparatus was pressurized with hydrogen, and the reaction was allowed to continue until the pressure ceased dropping. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure leaving a residue. This residue was mixed with 15 ml of water and 5 ml of 10% hydrochloric acid. This mixture was stirred at room temperature for two hours. Following dilution with water, the mixture was extracted with methylene chloride. The extracts were combined and washed successively with water, 5% hydrochloric acid, and a saturated, aqueous solution of sodium bicarbonate. This solution was dried, filtered, and the solvent was evaporated under reduced pressure leaving a residue. This residue was passed through a column of silica gel, eluting first with ethyl acetate/heptane (1/4) and then with ethyl acetate/heptane (1/1). The appropriate fractions were collected, and the solvent was evaporated under reduced pressure yielding 1.7 g of 1-(2-chloro-4-fluoro-5-methylcarbonylaminophenyl)ethyl nitrate as a white solid. The nmr and ir spectra were consistent with the proposed structure.

reactant | 1-(2-chloro-4-fluoro-5-nitrophenyl)ethyl nitrate | 0.014 mole, 3.7 g | [N+](=O)(OC(C)C1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl)[O-] | C8H6ClFN2O5
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 5 ml | Cl | ClH
catalyst | platinum oxide | 0.35 g | [Pt]=O
solvent | water | O | H2O
solvent | water | 15 ml | O | H2O
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-chloro-4-fluoro-5-methylcarbonylaminophenyl)ethyl nitrate | 1.7 g | [N+](=O)(OC(C)C1=C(C=C(C(=C1)NC(=O)C)F)Cl)[O-] | C10H10ClFN2O4
